US09376454B2
Step 7. Synthesis of benzyl 5-(2-oxoethyl)isoindoline-2-carboxylate
To a solution of benzyl 5-(2,3-dihydroxypropyl)isoindoline-2-carboxylate (327 mg, 1 mmol) in THF (7 mL) and water (7 mL) was added sodium periodate (426 mg, 2 mmol). The resulting mixture was stirred for 20 min diluted with ethyl acetate, washed with water and brine, dried over magnesium sulfate and concentrated to give the title compound a white solid. This material is used without further purification.

reactant | benzyl 5-(2,3-dihydroxypropyl)isoindoline-2-carboxylate | 1 mmol, 327 mg | OC(CC=1C=C2CN(CC2=CC1)C(=O)OCC1=CC=CC=C1)CO | C19H21NO4
reactant | sodium periodate | 2 mmol, 426 mg | I(=O)(=O)(=O)[O-].[Na+]
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | water | 7 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | benzyl 5-(2-oxoethyl)isoindoline-2-carboxylate | O=CCC=1C=C2CN(CC2=CC1)C(=O)OCC1=CC=CC=C1 | C18H17NO3
